US09260416B2
Step 4: (4-Mercapto-pyrazol-1-yl)-acetic acid ethyl ester
[4-(1-Ethoxycarbonylmethyl-1H-pyrazol-4-yldisulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester (0.4547 g, 1.22 mmol) and triphenyl phosphine (0.450 g, 1.71 mmol) were dissolved in EtOH (10 mL) and H2O (3 mL). After stirring at room temperature overnight the reaction was diluted with EtOAc and washed with H2O and brine, dried and concentrated. The residue was purified by preparatory HPLC (10-100% ACN in H2O) to provide the title compound.

reactant | [4-(1-Ethoxycarbonylmethyl-1H-pyrazol-4-yldisulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester | 1.22 mmol, 0.4547 g | C(C)OC(CN1N=CC(=C1)SSC=1C=NN(C1)CC(=O)OCC)=O | C14H18N4O4S2
reactant | triphenyl phosphine | 1.71 mmol, 0.450 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | H2O | 3 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (4-Mercapto-pyrazol-1-yl)-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)S)=O | C7H10N2O2S
